* gf180-pll :: divider_chain -- generated by design/netlist.sh from divider_chain.sch
* xschem XSCHEM V3.4.7; do not edit by hand.
** sch_path: design/divider_chain.sch
.subckt divider_chain VCO P0 P1 P2 P3 P4 P5 SEL0 SEL1 SEL2 SEL3 SEL4 SEL5 DIVOUT FB VDD_DIV VSS
*.ipin VCO
*.ipin P0
*.ipin P1
*.ipin P2
*.ipin P3
*.ipin P4
*.ipin P5
*.ipin SEL0
*.ipin SEL1
*.ipin SEL2
*.ipin SEL3
*.ipin SEL4
*.ipin SEL5
*.opin DIVOUT
*.opin FB
*.iopin VDD_DIV
*.iopin VSS
XD0 VCO MI0 P0 CK1 MO0 VDD_DIV VSS div23_cell
XD1 CK1 MI1 P1 CK2 MO1 VDD_DIV VSS div23_cell
XD2 CK2 MI2 P2 CK3 MO2 VDD_DIV VSS div23_cell
XD3 CK3 MI3 P3 CK4 MO3 VDD_DIV VSS div23_cell
XD4 CK4 MI4 P4 CK5 MO4 VDD_DIV VSS div23_cell
XD5 CK5 SEL5 P5 CK6 MO5 VDD_DIV VSS div23_cell
XNR0 MO1 SEL0 NMI0 VDD_DIV VSS nor2_3v3
XIV0 NMI0 MI0 VDD_DIV VSS inv_3v3
XNR1 MO2 SEL1 NMI1 VDD_DIV VSS nor2_3v3
XIV1 NMI1 MI1 VDD_DIV VSS inv_3v3
XNR2 MO3 SEL2 NMI2 VDD_DIV VSS nor2_3v3
XIV2 NMI2 MI2 VDD_DIV VSS inv_3v3
XNR3 MO4 SEL3 NMI3 VDD_DIV VSS nor2_3v3
XIV3 NMI3 MI3 VDD_DIV VSS inv_3v3
XNR4 MO5 SEL4 NMI4 VDD_DIV VSS nor2_3v3
XIV4 NMI4 MI4 VDD_DIV VSS inv_3v3
XM0 CK1 SEL0 T0 VDD_DIV VSS nand2_3v3
XM1 CK2 SEL1 T1 VDD_DIV VSS nand2_3v3
XM2 CK3 SEL2 T2 VDD_DIV VSS nand2_3v3
XM3 CK4 SEL3 T3 VDD_DIV VSS nand2_3v3
XM4 CK5 SEL4 T4 VDD_DIV VSS nand2_3v3
XM5 CK6 SEL5 T5 VDD_DIV VSS nand2_3v3
XMA T0 T1 T2 MA VDD_DIV VSS nand3_3v3
XMB T3 T4 T5 MB VDD_DIV VSS nand3_3v3
XMNO MA MB DIVOUTB VDD_DIV VSS nor2_3v3
XIDO DIVOUTB DIVOUT VDD_DIV VSS inv2x_3v3
XFRT DIVOUT VCO FB FBB VDD_DIV VSS dff_tg_3v3
.ends

* expanding   symbol:  div23_cell.sym # of pins=7
** sym_path: design/div23_cell.sym
** sch_path: design/div23_cell.sch
.subckt div23_cell CKIN MODIN P CKOUT MODOUT VDD VSS
*.ipin CKIN
*.ipin MODIN
*.ipin P
*.opin CKOUT
*.opin MODOUT
*.iopin VDD
*.iopin VSS
XN3 MODIN P MODOUT SB VDD VSS nand3_3v3
XN2Q QB SB DQN VDD VSS nand2_3v3
XIQ DQN DQ VDD VSS inv_3v3
XFQ DQ CKIN Q QB VDD VSS dff_tg_3v3
XICKO QB CKOUT VDD VSS inv2x_3v3
XN2M MODIN Q NMO VDD VSS nand2_3v3
XIM NMO DMO VDD VSS inv_3v3
XFMO DMO CKIN MODOUT MOB VDD VSS dff_tg_3v3
.ends


* expanding   symbol:  nor2_3v3.sym # of pins=5
** sym_path: design/nor2_3v3.sym
** sch_path: design/nor2_3v3.sch
.subckt nor2_3v3 A B Y VDD VSS
*.ipin A
*.ipin B
*.opin Y
*.iopin VDD
*.iopin VSS
XMPA PMID A VDD VDD pfet_03v3 L=0.28u W=5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMPB Y B PMID VDD pfet_03v3 L=0.28u W=5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNA Y A VSS VSS nfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNB Y B VSS VSS nfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  inv_3v3.sym # of pins=4
** sym_path: design/inv_3v3.sym
** sch_path: design/inv_3v3.sch
.subckt inv_3v3 A Y VDD VSS
*.ipin A
*.opin Y
*.iopin VDD
*.iopin VSS
XMP Y A VDD VDD pfet_03v3 L=0.28u W=2.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMN Y A VSS VSS nfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  nand2_3v3.sym # of pins=5
** sym_path: design/nand2_3v3.sym
** sch_path: design/nand2_3v3.sch
.subckt nand2_3v3 A B Y VDD VSS
*.ipin A
*.ipin B
*.opin Y
*.iopin VDD
*.iopin VSS
XMPA Y A VDD VDD pfet_03v3 L=0.28u W=2.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMPB Y B VDD VDD pfet_03v3 L=0.28u W=2.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNA Y A NMID VSS nfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNB NMID B VSS VSS nfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  nand3_3v3.sym # of pins=6
** sym_path: design/nand3_3v3.sym
** sch_path: design/nand3_3v3.sch
.subckt nand3_3v3 A B C Y VDD VSS
*.ipin A
*.ipin B
*.ipin C
*.opin Y
*.iopin VDD
*.iopin VSS
XMPA Y A VDD VDD pfet_03v3 L=0.28u W=2.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMPB Y B VDD VDD pfet_03v3 L=0.28u W=2.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMPC Y C VDD VDD pfet_03v3 L=0.28u W=2.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNA Y A NM1 VSS nfet_03v3 L=0.28u W=3u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNB NM1 B NM2 VSS nfet_03v3 L=0.28u W=3u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNC NM2 C VSS VSS nfet_03v3 L=0.28u W=3u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  inv2x_3v3.sym # of pins=4
** sym_path: design/inv2x_3v3.sym
** sch_path: design/inv2x_3v3.sch
.subckt inv2x_3v3 A Y VDD VSS
*.ipin A
*.opin Y
*.iopin VDD
*.iopin VSS
XMP Y A VDD VDD pfet_03v3 L=0.28u W=5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMN Y A VSS VSS nfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  dff_tg_3v3.sym # of pins=6
** sym_path: design/dff_tg_3v3.sym
** sch_path: design/dff_tg_3v3.sch
.subckt dff_tg_3v3 D CK Q QB VDD VSS
*.ipin D
*.ipin CK
*.opin Q
*.opin QB
*.iopin VDD
*.iopin VSS
XICKB CK CKB VDD VSS inv_3v3
XICKBB CKB CKBB VDD VSS inv_3v3
XTGMI D NM CKB CKBB VDD VSS tgate_3v3
XIA NM NMA VDD VSS inv_3v3
XIB NMA NMB VDD VSS inv_3v3
XTGMF NMB NM CKBB CKB VDD VSS tgate_3v3
XTGSI NMA NS CKBB CKB VDD VSS tgate_3v3
XIC NS Q VDD VSS inv_3v3
XID Q QB VDD VSS inv_3v3
XTGSF QB NS CKB CKBB VDD VSS tgate_3v3
.ends


* expanding   symbol:  tgate_3v3.sym # of pins=6
** sym_path: design/tgate_3v3.sym
** sch_path: design/tgate_3v3.sch
.subckt tgate_3v3 A Y GN GP VDD VSS
*.iopin A
*.iopin Y
*.ipin GN
*.ipin GP
*.iopin VDD
*.iopin VSS
XMP Y GP A VDD pfet_03v3 L=0.28u W=2.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMN A GN Y VSS nfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends

* gf180-pll :: divider-ratio :: full divider_chain testbench (DR-001 Decision 3)
*
* One divider_chain instance (six div23_cells + chain-length termination +
* output multiplexer + VCO-clocked retiming flop) driven at kf, programmed to
* one integer N per run through the one-hot chain-length code SEL and the
* modulus bits P:
*
*   N = 2^k + sum(P_i . 2^i)  for i < k,  SEL_(k-1) = 1
*
* Measured per run:
*   n_fb      the retimed FB period in units of the VCO period -- must equal N
*   ndo       the same for the un-retimed DIVOUT node, over the same interval
*
* Both are measured only AFTER a full output period (kn VCO periods) has been
* skipped. That skip is not padding: the thirteen flops come out of the DC
* operating point in an arbitrary state, and the modulus chain needs one full
* pass -- one output period -- before its ripple-back mod signals are correct.
* Measured without the skip, the FIRST output period reads N-1 at some N and
* corners (observed at ff/-40 C/3.63 V for N = 12, 13, 16, 17) while every
* period after it is exact. That is a start-up transient, not a division
* error, and skipping it is the honest way to exclude it -- as opposed to
* widening the tolerance until it disappears.
*   t_arr     DIVOUT arrival time referred to the VCO rising edge that caused
*             it = the chain's accumulated clk->Q plus the output-mux delay.
*             This is the quantity the retiming flop's setup budget is spent
*             on (DR-001: "one VCO period minus the chain's accumulated
*             clk->Q"), so setup margin = T_vco - t_arr - t_setup, with
*             t_setup measured by tb_dff_setup.sp at the same PVT point.
*   t_rtcq    the retiming flop's own clk->Q, i.e. the constant, N-independent
*             feedback delay the PFD sees (DR-001's interface contract to #9).
*   fbpw      FB high time -- must be >= the PFD reset delay (#9's contract).
*
* Expects from the generated header (sim/lib/simenv.sh):
*   .lib <corner> / .temp <temp_c> / .param vsup=<V>
*   .param kf=<VCO Hz> ktstep=<max timestep> ktstop=<transient stop>
*   .param ksel0..ksel5, kp0..kp5   (0 or 1)
*   .param kn=<programmed divide ratio>   (sets the start-up skip)
*
* The divider_chain subcircuit is prepended by the campaign runner (from
* design/netlist/divider_chain.spice, exported from design/divider_chain.sch).

.param tvco='1/kf'
.param ttr='tvco/50'
.param ttd='tvco'
.param tck0='ttd+ttr/2'

vdiv vdd_div 0 dc 'vsup'
vvco vco 0 pulse(0 'vsup' 'ttd' 'ttr' 'ttr' 'tvco/2-ttr' 'tvco')

vs0 sel0 0 dc 'ksel0*vsup'
vs1 sel1 0 dc 'ksel1*vsup'
vs2 sel2 0 dc 'ksel2*vsup'
vs3 sel3 0 dc 'ksel3*vsup'
vs4 sel4 0 dc 'ksel4*vsup'
vs5 sel5 0 dc 'ksel5*vsup'
vq0 pb0 0 dc 'kp0*vsup'
vq1 pb1 0 dc 'kp1*vsup'
vq2 pb2 0 dc 'kp2*vsup'
vq3 pb3 0 dc 'kp3*vsup'
vq4 pb4 0 dc 'kp4*vsup'
vq5 pb5 0 dc 'kp5*vsup'

xchain vco pb0 pb1 pb2 pb3 pb4 pb5 sel0 sel1 sel2 sel3 sel4 sel5
+ divout fb vdd_div 0 divider_chain

.options reltol=1e-3 abstol=1e-10 vntol=1e-5 chgtol=1e-13
.tran {ktstep} {ktstop}

* Skip one full output period of start-up before looking for any edge.
.param tskip='ttd+kn*tvco'

* --- division ratio of the retimed feedback edge, first settled period
.meas tran tfb1 when v(fb)='vsup/2' rise=1 td='tskip'
.meas tran tfb2 when v(fb)='vsup/2' rise=2 td='tskip'
.meas tran n_fb param='(tfb2-tfb1)/tvco'

* --- same ratio on the raw (un-retimed) chain output, over the same interval
.meas tran tdo1 when v(divout)='vsup/2' rise=1 td='tskip'
.meas tran tdo2 when v(divout)='vsup/2' rise=2 td='tskip'
.meas tran ndo param='(tdo2-tdo1)/tvco'

* --- retiming timing, both referred to the VCO rising edge (modulo one VCO
*     period, so the result is independent of which edge index is involved)
.meas tran t_arr param='(tdo2-tck0)-tvco*floor((tdo2-tck0)/tvco)'
.meas tran t_rtcq param='(tfb2-tck0)-tvco*floor((tfb2-tck0)/tvco)'

* --- feedback pulse width (sign corrected in the runner, see tb_div23_cell)
.meas tran ffb2 when v(fb)='vsup/2' fall=2 td='tskip'
.meas tran fbpw param='ffb2-tfb2'

* --- divider supply current on the dedicated vdd_div domain
.meas tran iavg avg i(vdiv) from='tskip' to='ktstop'
